** sch_path: /foss/designs/CapiMagics/sch/stdp/stdp_lvs.sch
.subckt stdp_lvs avdd avss nvpre nvpost vpre vpost vb_itd vb_idep vb_itp vb_pot vw iout
*.PININFO avss:B avdd:B nvpost:B nvpre:B vpost:B vpre:B vb_idep:B vb_itd:B vb_itp:B vb_pot:B vw:B iout:O
M1 n1 vpot avdd avdd pfet_03v3 L=0.63u W=0.5u nf=1
M2 vw nvpost n1 avdd pfet_03v3 L=0.63u W=0.5u nf=1
M3 vw vpre n2 avss nfet_03v3 L=0.63u W=0.5u nf=1
M4 n2 vdep avss avss nfet_03v3 L=0.63u W=0.5u nf=1
M7 n4 n3 avdd avdd pfet_03v3 L=0.63u W=0.5u nf=1
M8 n3 nvpre vpot avdd pfet_03v3 L=0.63u W=0.5u nf=1
M9 n5 n5 avss avss nfet_03v3 L=0.63u W=0.5u nf=1
M12 n5 vpost vdep avss nfet_03v3 L=0.63u W=0.5u nf=1
M17 vpot vb_itp avdd avdd pfet_03v3 L=4.6u W=0.3u nf=1
MCM_1 n4 vb_pot avss avss nfet_03v3 L=2.8u W=0.61u nf=1
M16 n5 vb_idep avdd avdd pfet_03v3 L=2.8u W=10.2u nf=1
MCM_5 vdep vb_itd n6 avss nfet_03v3 L=10u W=0.5u nf=1
MCM_6 n6 vb_itd n7 avss nfet_03v3 L=10u W=0.5u nf=1
MCM_7 n7 vb_itd n8 avss nfet_03v3 L=10u W=0.5u nf=1
MCM_8 n8 vb_itd n9 avss nfet_03v3 L=10u W=0.5u nf=1
MCM_9 n9 vb_itd avss avss nfet_03v3 L=10u W=0.5u nf=1
x1[0] vdep avss unitcap
x1[1] vdep avss unitcap
x2[0] vw avss unitcap
x2[1] vw avss unitcap
x2[2] vw avss unitcap
x2[3] vw avss unitcap
x2[4] vw avss unitcap
x2[5] vw avss unitcap
x2[6] vw avss unitcap
x2[7] vw avss unitcap
x2[8] vw avss unitcap
x2[9] vw avss unitcap
x3[0] avdd vpot unitcap
x3[1] avdd vpot unitcap
M5 iout vw avdd avdd pfet_03v3 L=15u W=0.5u nf=1
.ends

* expanding   symbol:  stdp/unitcap.sym # of pins=2
** sym_path: /foss/designs/CapiMagics/sch/stdp/unitcap.sym
** sch_path: /foss/designs/CapiMagics/sch/stdp/unitcap.sch
.subckt unitcap tp bp
*.PININFO tp:B bp:B
XCdep tp bp cap_mim_2f0fF c_width=5e-6 c_length=5e-6
.ends

